US07132438B2
Synthesis of 3-nitro-N-(1H-benzoimidazol-2-yl)-benzamide (1).
A 200 mL flask was charged with 2.25 g 3-nitrobenzoic acid (13.46 mmol, 1.0 equiv), 3.59 g 2-aminobenzimidazole (26.92 mmol, 2.0 equiv), 5.63 g O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU, 14.81 mmol, 1.10 equiv), and 1-hydroxybenzotriazole hydrate (HOBT, 14.13 mmol, 1.05 equiv). The flask was then charged with 40 mL DMF, stirring was initiated (magnetic stirrer) and 1.71 mL N-methylmorpholine (NMM, 15.48 mmol, 1.15 equiv) was added in one portion to the suspension. After 6 h, the suspension was diluted with 200 mL of a 10% citric acid solution. After stirring an additional 30 min, the suspension was filtered and the resulting solid was washed (2×H2O, then 2×sat. NaHCO3). The solid was then triturated with EtOAc (30 mL), filtered, and dried under reduced pressure to give 3.16 g of the product as a tan solid (11.2 mmol). 1H NMR (DMSO-d6, 400 MHz) δ 12.60 (broad s, 2 H), 8.96 (t, J=2.1 Hz, 1 H), 8.55 (d, J=7.8 Hz, 1 H), 8.38 (m, 1 H), 7.78 (t, J=7.9 Hz, 1 H), 7.43 (dd, J=3.2, 5.9 Hz, 2 H), 7.18 (dd, J=3.2, 5.9 Hz, 2 H); MS: ESI(−) m/z 281.1 (M−H).

reactant | 3-nitrobenzoic acid | 13.46 mmol, 2.25 g, 1.0 equiv | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
reactant | 2-aminobenzimidazole | 26.92 mmol, 3.59 g, 2.0 equiv | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 14.81 mmol, 5.63 g, 1.10 equiv | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxybenzotriazole hydrate | 14.13 mmol, 1.05 equiv | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 15.48 mmol, 1.71 mL, 1.15 equiv | CN1CCOCC1 | C5H11NO
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-nitro-N-(1H-benzoimidazol-2-yl)-benzamide | 11.2 mmol, 3.16 g | [N+](=O)([O-])C=1C=C(C(=O)NC2=NC3=C(N2)C=CC=C3)C=CC1 | C14H10N4O3
